US08293769B2
To a solution of 2-chloro-6-methoxybenzo[d]thiazole (900 mg, 4.5 mmol) in 4.5 mL of NMP was added cyclohexylmethanamine (865 mg, 7.65 mmol) and DIPEA (1.57 mL, 9.0 mmol). The reaction solution was stirred at 105-110° C. for 66 hours. The reaction was diluted with EtOAc (250 mL) and washed with saturated NaHCO3 (2×60 mL), water (3×60 mL), saturated NaCl (60 mL), dried with sodium sulfate, filtered and concentrated in vacuo to give N-(cyclohexylmethyl)-6-methoxybenzo[d]thiazol-2-amine as a solid (1.18 grams). ES/MS m/z 277.1 (MH+).

reactant | 2-chloro-6-methoxybenzo[d]thiazole | 4.5 mmol, 900 mg | ClC=1SC2=C(N1)C=CC(=C2)OC | C8H6ClNOS
reactant | cyclohexylmethanamine | 7.65 mmol, 865 mg | C1(CCCCC1)CN | C7H15N
reactant | DIPEA | 9.0 mmol, 1.57 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 4.5 mL | CN1CCCC1=O | C5H9NO
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
product | N-(cyclohexylmethyl)-6-methoxybenzo[d]thiazol-2-amine | 1.18 grams | C1(CCCCC1)CNC=1SC2=C(N1)C=CC(=C2)OC | C15H20N2OS
